US07662808B2
N-[4-(1,4-Diaza-bicyclo[3.2.2]non-4-yl)-phenyl]-2-fluoro-benzamide hydrochloric acid salt (Compound G12)
Was prepared by Method G from 4-(1,4-diaza-bicyclo[3.2.2]non-4-yl)-phenylamine and 2-fluorobenzoyl chloride. Mp. >268° C. (decomp.).

reactant | 4-(1,4-diaza-bicyclo[3.2.2]non-4-yl)-phenylamine | N12CCN(C(CC1)CC2)C2=CC=C(C=C2)N | C13H19N3
reactant | 2-fluorobenzoyl chloride | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
product | N-[4-(1,4-Diaza-bicyclo[3.2.2]non-4-yl)-phenyl]-2-fluoro-benzamide hydrochloric acid salt | Cl.N12CCN(C(CC1)CC2)C2=CC=C(C=C2)NC(C2=C(C=CC=C2)F)=O | InChI=1S/C20H22FN3O.ClH/c21-19-4-2-1-3-18(19)20(25)22-15-5-7-16(8-6-15)24-14-13-23-11-9-17(24)10-12-23;/h1-8,17H,9-14H2,(H,22,25);1H
